US08378058B2
p-Toluenesulfonyl Chloride (6)
PCl5 (0.44 mol, 89.2 g) was added to p-toluenesulfonic acid sodium salt (0.4 mmol, 77.6 g). After mixed completely, the mixture was heated to 80° C. in water bath and stirred for 2 h, then cooled to room temperature. The reaction was quenched by pouring onto 600 mL of water and ice. The mixture was filtered and gives the product as white solid. (69.8 g, 90%).

reactant | PCl5 | 0.44 mol, 89.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | p-toluenesulfonic acid sodium salt | 0.4 mmol, 77.6 g | [Na+].C1(=CC=C(C=C1)S(=O)(=O)[O-])C
solvent | water | O | H2O
product | p-Toluenesulfonyl Chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
